US04166854
A stirred solution of 227.68 g (1.0 mole) of 1-(6-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone, prepared above, in 1000 ml dioxane was heated to 65° C. The heat source was removed and 175.8 g (1.1 mole) bromine added dropwise. After the addition of the bromine, the solution was stirred for 10 minutes and then poured into 3 liters ice water containing 25 g sodium bisulfite. The mixture was made slightly basic with 50% NaOH and twice extracted with 500-ml portions of pentane. The pentane extracts were washed with 1000 ml of 5% NaOH and dried, giving 259 g (84% yield) of 1-bromo-1-(6-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone. Crystallization from pentane gave a white solid melting at 50°-52° C.

reactant | 1-(6-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone | 1.0 mole, 227.68 g | ClC1=CC=CC(=N1)OCC(C(C)(C)C)=O | C11H14ClNO2
reactant | bromine | 1.1 mole, 175.8 g | BrBr | Br2
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | 1000 ml | O1CCOCC1 | C4H8O2
product | 1-bromo-1-(6-chloro-2-pyridinyloxy)-3,3-dimethyl-2-butanone | 259 g, 84% yield | BrC(C(C(C)(C)C)=O)OC1=NC(=CC=C1)Cl | C11H13BrClNO2
